US07960394B2
6-[(1-Cyclobutylpiperidin-4-yl)oxy]nicotinaldehyde
2-[(1-cyclobutylpiperidin-4-yl)oxy]-5-vinylpyridine (2.59 g, 10 mmol) and sodium periodate (10.7 g, 50 mmol) were stirred in a mixed solvent of THF (10 mL) and water (10 mL) at room temperature. Osmium tetroxide (0.2 M in t-BuOH, 1 mL) was dropwise added to the reaction solution, and stirred at room temperature for 24 hours. The reaction solution was diluted with ethyl acetate, washed with aqueous 1 N sodium hydroxide solution, aqueous saturated sodium thiosulfate solution and saturated saline water in that order, and the organic layer was dried with magnesium sulfate. The solvent was evaporated off, and the residue was purified through silica gel column chromatography (chloroform/methanol=9/1) to obtain the intended compound (1.04 g, 40%) as a brown solid.

reactant | 2-[(1-cyclobutylpiperidin-4-yl)oxy]-5-vinylpyridine | 10 mmol, 2.59 g | C1(CCC1)N1CCC(CC1)OC1=NC=C(C=C1)C=C | C16H22N2O
reactant | sodium periodate | 50 mmol, 10.7 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | water | 10 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Osmium tetroxide | 0.2 M, 1 mL | [Os](=O)(=O)(=O)=O
product | 6-[(1-Cyclobutylpiperidin-4-yl)oxy]nicotinaldehyde | 1.04 g, 40% | C1(CCC1)N1CCC(CC1)OC1=NC=C(C=O)C=C1 | C15H20N2O2
